### PR TITLE
[Merged by Bors] - feat: Create a partition from an element of Sym

### PR DESCRIPTION
**Pull request by SashaIr**
An element of Sym induces a partition given by the multiplicities of its elements.

Co-authored-by: Nirvana Coppola [nirvanac93@gmail.com](mailto:nirvanac93@gmail.com)

---

See https://github.com/leanprover-community/mathlib4/pull/12572.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/Enumerative/Partition.lean [hunk 1]
```diff
@@ -123,6 +151,21 @@ instance UniquePartitionZero : Unique (Partition 0) where
 instance UniquePartitionOne : Unique (Partition 1) where
   uniq _ := Partition.ext _ _ <| by simp
 
+lemma ofSym_one (s : Sym σ 1) : ofSym s = indiscrete 1 := by
+  ext; simp
+
+/-- The equivalence between `σ` and `1`-tuples of elements of σ -/
+def ofSym_equiv_indiscrete (σ : Type*) [DecidableEq σ] : σ ≃
+    { a : Sym σ 1 // ofSym a = indiscrete 1 } where
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition.lean:159]: Hmm, I'm not sure this equivalence is interesting given that it is the combination of `Sym.oneEquiv` and `alpha ~= {a : alpha // True}`

Comment (SashaIr) [reply Mathlib/Combinatorics/Enumerative/Partition.lean:159]: How do you combine them? I'm having trouble with it, I can't identify `ofSym a` with `indiscrete 1`.

Comment (SashaIr) [reply Mathlib/Combinatorics/Enumerative/Partition.lean:159]: I guess my problem is that I don't know how to prove `msymm_one` from https://github.com/leanprover-community/mathlib4/pull/12572 without this lemma.

Comment (YaelDillies) [reply Mathlib/Combinatorics/Enumerative/Partition.lean:159]: I'll have a look tomorrow evening. Please remind me if I forget

Comment (SashaIr) [reply Mathlib/Combinatorics/Enumerative/Partition.lean:159]: I made a commit on the other branch removing the lemma. I don't quite like the proof, but it works. I can either revert that commit or remove the lemma here, let me know which one is preferred.

Comment (SashaIr) [reply Mathlib/Combinatorics/Enumerative/Partition.lean:159]: Ok cool!

File: Mathlib/Combinatorics/Enumerative/Partition.lean [hunk 2]
```diff
@@ -99,6 +99,34 @@ def ofSums (n : ℕ) (l : Multiset ℕ) (hl : l.sum = n) : Partition n where
...
+  parts := s.1.dedup.map s.1.count
+  parts_pos := by simp [Multiset.count_pos]
+  parts_sum := by
+    show ∑ a ∈ s.1.toFinset, count a s.1 = n
+    rw [toFinset_sum_count_eq]
+    exact s.2
+
+variable {n : ℕ} {σ τ : Type*} [DecidableEq σ] [DecidableEq τ]
+
+lemma ofSym_map (e : σ ≃ τ) (s : Sym σ n) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition.lean:113]:
```suggestion
@[simp] lemma ofSym_map (e : σ ≃ τ) (s : Sym σ n) :
```

File: Mathlib/Combinatorics/Enumerative/Partition.lean [hunk 3]
```diff
@@ -99,6 +99,34 @@ def ofSums (n : ℕ) (l : Multiset ℕ) (hl : l.sum = n) : Partition n where
...
+    ofSym (s.map e) = ofSym s := by
+  simp only [ofSym, Sym.val_eq_coe, Sym.coe_map, toFinset_val, mk.injEq]
+  rw [Multiset.dedup_map_of_injective e.injective]
+  simp only [map_map, Function.comp_apply]
+  congr; funext i
+  rw [← Multiset.count_map_eq_count' e _ e.injective]
+
+/-- An equivalence between `σ` and `τ` induces an equivalence between the subtypes of `Sym σ n` and
+`Sym τ n` corresponding to a given partition. -/
+def ofSym_shape_equiv (μ : Partition n) (e : σ ≃ τ) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition.lean:123]:
```suggestion
def ofSymShapeEquiv (μ : Partition n) (e : σ ≃ τ) :
```

File: Mathlib/Combinatorics/Enumerative/Partition.lean [hunk 4]
```diff
@@ -123,6 +151,9 @@ instance UniquePartitionZero : Unique (Partition 0) where
 instance UniquePartitionOne : Unique (Partition 1) where
   uniq _ := Partition.ext _ _ <| by simp
 
+lemma ofSym_one (s : Sym σ 1) : ofSym s = indiscrete 1 := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/Enumerative/Partition.lean:154]:
```suggestion
@[simp] lemma ofSym_one (s : Sym σ 1) : ofSym s = indiscrete 1 := by
```

File: Mathlib/Data/Sym/Basic.lean [hunk 5]
```diff
@@ -534,6 +534,19 @@ theorem mem_append_iff {s' : Sym α m} : a ∈ s.append s' ↔ a ∈ s ∨ a ∈
   Multiset.mem_add
 #align sym.mem_append_iff Sym.mem_append_iff
 
+/-- Defines an equivalence between `α` and `Sym α 1`. -/
```
Comment (YaelDillies) [inline Mathlib/Data/Sym/Basic.lean:537]: This is devoid of information. I already know this from the *type* of the declaration. However I would like to know what's going on inside the *body*. Can you change it to something like 
```suggestion
/-- `a ↦ {a}` as an equivalence between `α` and `Sym α 1`. -/
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
